data/rdb19/train.csv
rxn,smiles,ea
5278,[C:1]([C:2]([C:3]([H:4])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2]([C:3]([H:4])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:32])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])[H:31])([H:28])([H:29])[H:30],27.79416395991575
5391,[C:17]([C:18]([C:19]([H:20])[H:21])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[H:21])[N:22]([C:23](=[O:24])[H:30])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[H:28])([H:9])[H:10],35.643672930425964
3129,[C:16]([C:17]([C:18]([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17]([C:18]([H:19])=[N:20][C:21](=[O:22])[H:29])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([H:8])([H:9])([H:10])[H:28].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12],89.53733936883509
2201,[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([H:23])[H:24])([H:25])([H:26])[H:27]>>[C:1]([C:2]([C:3]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([H:13])([H:14])([H:15])[C:22]([C:21]([H:25])([H:26])[H:27])([H:23])[H:24],56.73732475392171
543,[C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15].[O:1][H:2]>>[C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10][c:11]([H:25])[c:12]1[H:26])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15].[O:1]([H:2])[H:24],9.3289030175074
804,[C:19]([C:20]([C:21]([H:31])([H:32])[H:33])([C:22]([H:23])[H:24])[C:25](=[O:26])[O:27][H:34])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])[H:12])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])([H:13])[C:22]([C:20]([C:19]([H:28])([H:29])[H:30])([C:21]([H:31])([H:32])[H:33])[C:25](=[O:26])[O:27][H:34])([H:23])[H:24],61.92293753265403
1407,[C:10]([C:11]([C:12]([H:13])[C:14]([C:15]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:16])([H:17])[H:18].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:16])([H:17])[H:18])([H:19])[H:20])([H:13])[C:14]([C:15]([H:23])([H:24])[H:25])([H:21])[H:22])[H:6],26.18982801545644
1680,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:19]1([H:27])[C:18]([H:26])=[C:17]([C:16](=[C:15]([H:23])[H:24])[H:25])[C:22]([H:30])=[C:21]([H:29])[C:20]1[H:28],36.89559447125066
516,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:21])([H:22])[H:23])([O:11][C:12](=[O:13])[C:14]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([O:2][O:3][H:17])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:21])([H:22])[H:23])([O:11][C:12](=[O:13])[C:14]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19])([H:15])[H:16],29.214053789852187
4876,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20][H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[H:26])[H:11])([H:8])([H:9])[H:10],27.05892834422412
561,[C:3]([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])([N:7]([C:8](=[O:9])[H:20])[H:19])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1][H:2]>>[C:3]([C:4]([C:5]([N:7]([C:8](=[O:9])[H:20])[H:19])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1]([H:2])[C:6]([H:16])([H:17])[H:18],41.66186859007576
